US07767675B2
Step 1. 2-fluoro-4-imidazo[1,2-a]pyrimidin-6-yl-N-methylbenzamide
A mixture of 4-(2-aminopyrimidin-5-yl)-2-fluoro-N-methylbenzamide (123 mg, 0.5 mmol) and chloroacetaldehyde (0.318 mL, 2.5 mmol) in isopropyl alcohol (4 mL) was stirred at 90° C. for 4 h. The solvent was removed under vacuum and the residue was triturated with ethyl acetate and hexanes. The solid formed was collected and dried under reduced pressure to give the desired product (120 mg, 88.8%). LCMS: (M+H)=271.0.

reactant | 4-(2-aminopyrimidin-5-yl)-2-fluoro-N-methylbenzamide | 0.5 mmol, 123 mg | NC1=NC=C(C=N1)C1=CC(=C(C(=O)NC)C=C1)F | C12H11FN4O
reactant | chloroacetaldehyde | 2.5 mmol, 0.318 mL | ClCC=O | C2H3ClO
solvent | isopropyl alcohol | 4 mL | C(C)(C)O | C3H8O
product | 2-fluoro-4-imidazo[1,2-a]pyrimidin-6-yl-N-methylbenzamide | 120 mg, 88.8% | FC1=C(C(=O)NC)C=CC(=C1)C=1C=NC=2N(C1)C=CN2 | C14H11FN4O
